US06548506B2
8-[(Cyclohexyl)(methyl)amino]-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid was prepared under the conditions of Example 1, but from 1.5 g of 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid and 1.3 cm3 of N-methylcyclohexylamine in 30 cm3 of dimethyl sulphoxide. After washing 2 times with with 15 cm3 of ethanol, 1.7 g of 8-[(cyclohexyl)(methyl)amino]-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid were obtained in the form of a yellow solid melting at about 265° C.

reactant | 7,8-difluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.5 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1F | C14H8F2N2O3
reactant | N-methylcyclohexylamine | 1.3 cm3 | CNC1CCCCC1 | C7H15N
solvent | dimethyl sulphoxide | 30 cm3 | CS(=O)C | C2H6OS
product | 8-[(cyclohexyl)(methyl)amino]-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.7 g | C1(CCCCC1)N(C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C1)F)C | C21H22FN3O3
